US03939266
Benzhydryl 3-formyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate
A solution of diphenyldiazomethane (0.213 g, 1.1 mmol) in dry tetrahydrofuran (2 ml) was added dropwise with stirring to the 3-formyl-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid (0.352 g., 1 mmol) in dry tetrahydrofuran (10 ml) at 40°. The reagent was allowed to completely react as noted by the color changes between each addition. The reaction was stirred at 40° for 2 hours after the addition was completed and then the solvent was removed in vacuo. The residual oil was dissolved in chloroform, washed with 5% NaHCO3, dried over MgSO4 and concentrated to half volume. The product was precipitated by the addition of hexane.

reactant | diphenyldiazomethane | 1.1 mmol, 0.213 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 3-formyl-7-(2-thienylacetamido)-2-cephem-4-carboxylic acid | 1 mmol, 0.352 g | C(=O)C1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C14H12N2O5S2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzhydryl 3-formyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate | C(=O)C1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H22N2O5S2
